US04812164
using isopropyl 2-chloro-5-[2-chloro-6-oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate and propargyl alcohol with pyridine there is obtained isopropyl 2-chloro-4-fluoro-5-[6-oxo-4-pentafluoroethyl-2-(2-propynyloxy)-1(6H)-pyrimidinyl]-benzoate, 1H-NMR (CDCl3, 400 MHz): 7.85 ppm (d,1H), 7.41 ppm (d,1H), 6.71 ppm (s,1H), 5.27 ppm (m,1H), 5.00 ppm (d,2H), 2.53 ppm (t,1H), 1.39 ppm (d,3H), 1.38 ppm (d,3H);

reactant | isopropyl 2-chloro-5-[2-chloro-6-oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)Cl | C16H10Cl2F6N2O3
reactant | propargyl alcohol | C(C#C)O | C3H4O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | isopropyl 2-chloro-4-fluoro-5-[6-oxo-4-pentafluoroethyl-2-(2-propynyloxy)-1(6H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)OCC#C | C19H13ClF6N2O4
